US09227985B2
Step 3. N-Methoxy-2-pyridin-2-yl-3,4-dihydroquinoline-1(2H)-carboxamide
A solution of 2-pyridin-2-yl-1,2,3,4-tetrahydroquinoline (0.723 g, 3.44 mmol) in methylene chloride (10.3 mL) was treated with 4-nitrophenyl methoxycarbamate (0.948 g, 4.47 mmol) (Org. Process Res. Dev. 2012, 16, 109-116) followed by the dropwise addition of N,N-diisopropylethylamine (1.20 mL, 6.88 mmol), and the resulting mixture was stirred at room temperature for 1.5 h. The reaction mixture was then poured over water (25 mL) and saturated sodium bicarbonate (25 mL) and extracted with dichloromethane (2×50 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated to give a crude oily solid. Purification by flash column chromatography (100% hexanes to 20% ethyl acetate/hexanes [the ethyl acetate contained 5% methanol]) gave the desired product (0.923 g, 95%) as a racemic mixture. LCMS calculated for C16H18N3O2 (M+H)+: m/z=284.1. found: 284.0.

reactant | 2-pyridin-2-yl-1,2,3,4-tetrahydroquinoline | 3.44 mmol, 0.723 g | N1=C(C=CC=C1)C1NC2=CC=CC=C2CC1 | C14H14N2
reactant | 4-nitrophenyl methoxycarbamate | 4.47 mmol, 0.948 g | CONC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C8H8N2O5
reactant | N,N-diisopropylethylamine | 6.88 mmol, 1.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10.3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | N-Methoxy-2-pyridin-2-yl-3,4-dihydroquinoline-1(2H)-carboxamide | 0.923 g, 95% | CONC(=O)N1C(CCC2=CC=CC=C12)C1=NC=CC=C1 | C16H17N3O2
